US04694109
2,2'-Bis(hydroxymethyl)-1,1'-biphenyl
Lithium aluminum hydride (12.60 grams, 0.332 mol) and THF (175 ml) were placed in a dry 500 ml three-necked round-bottomed flask fitted with a condenser, addition funnel, nitrogen inlet, and magnetic stirrer. The mixture was cooled with an ice bath and diphenic acid (40.00 grams, 0.165 mol) in THF (100 ml) was added dropwise to the stirring mixture. After the addition was complete, the flask was removed from the ice bath and allowed to warm to room temperature. The reaction mixture was heated at reflux for 2 hours, then stirred overnight at room temperature. After cooling the mixture with an ice bath, water (12.6 ml) was added dropwise, followed by the successive dropwise addition of 15% aqueous sodium hydroxide (12.6 ml) and water (38 ml). The resulting yellow mixture was warmed to room temperature, and the solids were separated by vacuum filtration. The filtrate was placed on a rotary evaporator to remove the solvent. The remaining brownish-yellow solid was recrystallized from toluene-hexane to give 28.60 grams (81% yield) of light brown solid product, melting point 105° to 108° C. 1H NMR (CDCl3): δ2.77 (br s, 2H, --OH); 3.95 (s, 4H, --CH2 --); 6.50-7.25 (m, 8H, aromatic).

reactant | Lithium aluminum hydride | 0.332 mol, 12.60 grams | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diphenic acid | 0.165 mol, 40.00 grams | C=1(C(C(=O)O)=CC=CC1)C=1C(C(=O)O)=CC=CC1 | C14H10O4
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 175 ml | C1CCOC1 | C4H8O
product | 2,2'-Bis(hydroxymethyl)-1,1'-biphenyl | 81% yield | OCC1=C(C=CC=C1)C1=C(C=CC=C1)CO | C14H14O2
